US04362728
A solution of methylisothiocyanate (0.21 g.) in acetone (10 ml.) was added to a solution of trifluoromethanesulphonamide (0.45 g.) and sodium hydroxide (0.12 g.) in water (5 ml.), the mixture stirred at 60° for 18 hours and then evaporated to dryness. The residue was dissolved in water and the solution washed with ethyl acetate and then adjusted to pH 1 with concentrated hydrochloric acid. The mixture was treated with charcoal and filtered and the filtrate extracted with ethyl acetate. The combined ethyl acetate extracts were dried and evaporated to dryness and the residue recrystallised from petroleum ether (b.p. 60°-80°) to give 1-methyl-3-trifluoromethanesulphonylthiourea (0.27 g.), m.p. 88°-90°.

reactant | methylisothiocyanate | 0.21 g | CN=C=S | C2H3NS
reactant | trifluoromethanesulphonamide | 0.45 g | FC(S(=O)(=O)N)(F)F | CH2F3NO2S
reactant | sodium hydroxide | 0.12 g | [OH-].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 5 ml | O | H2O
product | 1-methyl-3-trifluoromethanesulphonylthiourea | 0.27 g | CNC(=S)NS(=O)(=O)C(F)(F)F | C3H5F3N2O2S2
